data/specific_train_final.csv
"[H:20][O:21][CH:22]C(C)(C1CO1)O.[O:10][O]>>[H:20][O:10][O].CC([CH:22]=[O:21])(C1CO1)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:16][O:17][O:18].[H:12][O:11][O:10][CH:9]([CH2:13][O:14][O:15])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8]>>[H:16][O:15][O:14][CH2:13][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10][O:11][H:12].[O:17][O:18] 15-15,16; 16,17-17; 16,17-15,16",Room Temperature,Propagation,abstraction
"CC(C)(C(CO[O:20])O)O.[N+](=O)([O-])[O:10]>>CC(C)(C(CO[O:20][O:10][N+](=O)[O-])O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C(O1)(C)C([CH:10]C=O)O)C=O.[O:20][O]>>CC1(C(O1)(C)C([CH:10](C=O)[O:20][O])O)C=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(C)O[O:20])O[N+](=O)[O-].[N:10]=O>>CCC(C(C)O[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C1(C(O1)C(=CC(=O)CC)C)CC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC(=O)C=C(C)C1C(O1)(CC)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:11][CH:10]([CH3:12])[CH2:9][CH2:8][CH:6]([CH3:7])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13]>>[CH3:11][CH:10]([CH3:12])[CH2:9][CH2:8][CH:6]([CH3:7])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:13] 2,3-3;2,3-2",Room Temperature,Initiation,homolyze
"[CH3:8][CH:7]([CH2:9][OH:10])[CH2:6][O:5][O:4][O:3][N+:2](=[O:1])[O-:11]>>[CH3:8][CH:7]([CH2:9][OH:10])[CH2:6][O:5][O:4][O:3].[N+:2](=[O:1])[O-:11] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
[O:1][N:2]=O>>[O-:1][N+:2]=O 2-1,Room Temperature,Propagation,ha resonance
"[CH3:4][C:3]1([CH:7]=[CH:8][CH:9]2[CH:12]([C:2]1([O:11][O:10]2)[CH3:1])[OH:13])[O:5][O:6].[N+:15](=[O:17])([O-:16])[O:14]>>[CH3:4][C:3]1([CH:7]=[CH:8][CH:9]2[CH:12]([C:2]1([O:11][O:10]2)[CH3:1])[OH:13])[O:5][O:6][O:14][N+:15](=[O:17])[O-:16] 6-6,14; 14-6,14",Room Temperature,Termination,recombine
O=C(C)OC(C)C([O])C.[O:21][N:10]=O>>O=C(C)OC(C)C([O])C.[O-:21][N+:10]=O 10-21,Room Temperature,Propagation,ha resonance
"[H:20][C:21](=O)C1C(O1)/C=C\C(=O)CCC.[OH:10]>>[H:20][OH:10].CCCC(=O)/C=C\C1C(O1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH:6]1=[CH:5][CH:4]=[C:3]([CH:8]=[CH:7]1)[CH2:2][O:1].[N:10](=[O:11])[O:9]>>[CH:6]1=[CH:5][CH:4]=[C:3]([CH:8]=[CH:7]1)[CH2:2][O:1].[N+:10](=[O:11])[O-:9] 10-9,Room Temperature,Propagation,ha resonance
"[CH:9]1=[CH:10][CH:2]([CH:3]([C:6](=[CH:8]1)[OH:7])[O:4][O:5])[OH:1]>>[CH:9]1=[CH:8][C:6]([CH:3]2[CH:2]([CH:10]1[O:5][O:4]2)[OH:1])[OH:7] 5-5,10; 9,10-5,10; 9,10-8,9; 6,8-8,9; 6,8-6",Room Temperature,Propagation,addition
"CC(COC[O:20][O:21]OO)O>>CC(COC[O:20])O.OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C(C)(C)[O:20][O:21]N=O)O>>CC(C)(C(C)(C)[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH:10](C(O)(Cl)Cl)Cl.[O:20][O]>>[CH:10](C(O)(Cl)Cl)([O:20][O])Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)C[O:20][O:21]N=O>>CC(C)(C)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C=C(C(O[O:1])CO)C.O=[N:2]>>C=C(C)C(CO)O[O:1][N:2]=O 1-1,2;2-2,1",Room Temperature,Termination,recombine
"CC(CO)CO[O:20].[N+](=O)([O-])[O:10]>>CC(CO)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:12][CH2:11][CH2:10][C:6]([CH3:9])([CH2:7][CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13]>>[CH3:12][CH2:11][CH2:10][C:6]([CH3:9])([CH2:7][CH3:8])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:13] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC(C(OC)[O:20][O:21][O])O.[N+](=O)[O-]>>CC(C([O:20])OC)O.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]O.[OH:10]>>[H:20][OH:10].[CH2:21]O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10](C)C(C)(C)O[N+](=O)[O-].[O:20][O]>>CC(C)([C:10](C)(C)[O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC12C=CC(C(C1(C)O)(OO2)C)O[O:20].[N:10]=O>>CC12C=CC(C(C1(C)O)(OO2)C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(C)(C(CO[O:10])O[N+](=O)[O-])O>>[H:20][O:10]OCC(C(C)(C)O)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].C(O[O:10])(Cl)Cl>>[H:20][O:10]OC(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C)(CCO)O[O:10]>>[H:20][O:10]OC(C)(C)CCO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:11][O:10][O:9][CH2:8][CH:7]=[C:5]([CH3:6])[C:2](=[O:1])[O:3][O:4]>>[H:11][O:4][O:3][C:2](=[O:1])[C:5](=[CH:7][CH2:8][O:9][O:10])[CH3:6] 10,11-4,11;10,11-10;4-4,11",Room Temperature,Propagation,abstraction
